US04124597
The same process was used as in Example 1 except as follows: The starting product comprised 5.45 l/hr. of formalin (30%), 5.35 l/hr. of isobutyraldehyde, 2.35 l/hr. of methanol, 9.25 l/hr. of NaCN solution and 12 l/hr. of sulfuric acid (46%). The latter was used in the hydrolysis step. The residence time in the circulation reactor was 20 min. The temperature in the same reactor was 5° C. The time for the aftertreatment reaction was 40 min. The temperature in the tubular reactor was 150° C. and the residence time therein was 6 min. There were obtained 7 kg pantolactone of 90% purity. The yield was 76%.

reactant | formalin | C=O | CH2O
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | NaCN | [C-]#N.[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | CO | CH4O
product | pantolactone | 7 kg, yield was 76% | CC1(COC(=O)C1O)C | C6H10O3
